US05631238
12-Bromododecanoic acid (1 g) was stirred in 10% hydrochloric acid-methanol for 4 hours. The mixture was then concentrated and distributed into chloroform and water, and the chloroform layer was dried with anhydrous sodium sulfate to give the methyl ester of 12-bromoundecanoic acid (1.01 g). To para-fluorophenol (0.38 g) dissolved in dimethylformamide (DMF) was added 60% NaH (0.40 g), and the mixture was stirred. To this mixture was added 12-bromododecanoic acid (1 g), and the mixture was stirred for 12 hours. The reaction mixture, after having been concentrated and adjusted to a weak acidic range of pH by adding citric acid, was extracted with ethyl acetate. The ethyl acetate layer was dried and concentrated to give 12-para-fluorophenoxydodecanoic acid (1.12 g). The product was dissolved in a mixed solvent of ethanol-water (1:1), and potassium hydroxide (0.6 g) was added to the solution. The mixture was stirred at 80° C. for 30 minutes. The reaction mixture was diluted with water (80 ml), adjusted to acidic range of pH by adding citric acid, and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated to give 12-para-fluorophenoxy-dodecanoic acid (1.03 g).

reactant | para-fluorophenol | 0.38 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | NaH | 0.40 g | [H-].[Na+]
reactant | 12-bromododecanoic acid | 1 g | BrCCCCCCCCCCCC(=O)O | C12H23BrO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 12-para-fluorophenoxydodecanoic acid | 1.12 g | FC1=CC=C(OCCCCCCCCCCCC(=O)O)C=C1 | C18H27FO3
